US05767285
4-Hydroxy-3-nitrobenzyl alcohol (1 g, 5.91 mmol) is treated with 1.44 g (7.39 mmol) of ethyl 4-bromobutyrate, 2.86 g (20.69 mmol) of potassium carbonate and a catalytic amount (88 mg 0.59 mmol) of sodium iodide as described in Preparation 3 to give 1.45 g of 4-[4-(hydroxymethyl)2-nitrophenoxy]butanoic acid, ethyl ester as a light yellow oil (86%). The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (neat) 3400, 1730, 1710, 1630, 1580 cm-1 ; MS (CI) m/e 284 (M+H), 238; Analysis calculated for C13H17 O6N: C, 55.12; H, 6.05; found: C, 55.36; H, 6.03.

reactant | 4-Hydroxy-3-nitrobenzyl alcohol | 5.91 mmol, 1 g | OC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H7NO4
reactant | ethyl 4-bromobutyrate | 7.39 mmol, 1.44 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 20.69 mmol, 2.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.59 mmol, 88 mg | [I-].[Na+]
product | 4-[4-(hydroxymethyl)2-nitrophenoxy]butanoic acid, ethyl ester | 1.45 g, 86% | OCC1=CC(=C(OCCCC(=O)OCC)C=C1)[N+](=O)[O-] | C13H17NO6
